US06764589B1
After 1 F/mol of furan, the proportion of furan in GC-percent by area had dropped from 22.7% to 16.9%, while the proportion of 2,5-dimethoxydihydrofuran in GC-percent by area remained constant at 30%. At the same time, 3.3% of 2,5-dimethoxytetrahydrofuran were formed.

reactant | furan | O1C=CC=C1 | C4H4O
reactant | 2,5-dimethoxydihydrofuran | COC1OC(=CC1)OC | C6H10O3
product | 2,5-dimethoxytetrahydrofuran | 3.3% | COC1OC(CC1)OC | C6H12O3
